US04156014
D. Trans-3,4-dichloro-N-[2-(N-methyl-N-trichloroethoxycarbonylamino)cycloheptyl]aniline hydrochloride
To a mixture of equimolar quantities of triethylamine and the free diamine, trans-3,4-dichloro-N-[2-(N-methylamino)cycloheptyl]aniline, released from its hydrochloride salt with sodium hydroxide, in ethyl ether, there is added an equimolar amount of 2,2,2-trichloroethyl chloroformate in ethyl ether. The mixture is stirred at room temperature for 2 hours. Then saturated sodium bicarbonate solution is added. The organic layer is dried over magnesium sulfate and concentrated to an oil. This oil is converted to its hydrochloride salt by treatment with excess ethereal hydrochloric acid. This sub-titled salt is recrystallized from a mixture of methanol and ethyl ether.

reactant | trans-3,4-dichloro-N-[2-(N-methylamino)cycloheptyl]aniline | ClC=1C=C(N[C@H]2[C@@H](CCCCC2)NC)C=CC1Cl | C14H20Cl2N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Trans-3,4-dichloro-N-[2-(N-methyl-N-trichloroethoxycarbonylamino)cycloheptyl]aniline hydrochloride | Cl.ClC=1C=C(N[C@H]2[C@@H](CCCCC2)N(C(=O)OCC(Cl)(Cl)Cl)C)C=CC1Cl | InChI=1S/C17H21Cl5N2O2.ClH/c1-24(16(25)26-10-17(20,21)22)15-6-4-2-3-5-14(15)23-11-7-8-12(18)13(19)9-11;/h7-9,14-15,23H,2-6,10H2,1H3;1H/t14-,15-;/m1./s1
